US08022075B2
4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzonitrile (1)
2-Amino-5-iodopyridine (1.0 g) and 2-bromo-4′-cyanoacetophenone (1.02 g) were dissolved in ethanol (30 mL), and sodium hydrogencarbonate (382 mg) was added to the solution, followed by refluxing for 16 hours. Water (10 mL) was added to the reaction mixture, and the mixture was left to cool. The precipitated matter was recovered through filtration and dried, to thereby yield the title compound (1.27 g).

reactant | 2-Amino-5-iodopyridine | 1.0 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | 2-bromo-4′-cyanoacetophenone | 1.02 g | BrCC(=O)C1=CC=C(C=C1)C#N | C9H6BrNO
reactant | sodium hydrogencarbonate | 382 mg | C(O)([O-])=O.[Na+]
reactant | Water | 10 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzonitrile | 1.27 g | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C#N)C=C2 | C14H8IN3
